* C:\Users\Erdem\Documents\GitHub\EE313-Project\LTSpice\VCO_only.asc
Vnsupply1 -V 0 -12
Vpsupply1 +V 0 12
R1 N001 V_InputTri 5K
C1 V_ModTri N001 5n
R2 N004 V_InputTri 5K
R3 0 N004 5k
R6 N003 N005 10k
R7 0 N005 5k
V_InputTri1 V_InputTri 0 PULSE(0.75 4.5 0 0.05 0.05 0 0.1)
XU1 N004 N001 +V -V V_ModTri LM318
XU2 N005 V_ModTri +V -V N003 LM318
Vpsupply2 ++V 0 6
R5 NC_01 ++V 220k
M1 N002 N003 0 0 2N7002
R4 N002 N001 2.5k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc LM318.txt
.tran 0 9.1 9 1m uic
.backanno
.end
