* C:\Users\Erdem\Documents\GitHub\EE313-Project\LTSpice\VCO_only.asc
Vnsupply1 -V 0 -12
Vpsupply1 +V 0 12
R1 N001 V_InputTri 100k
C1 V_ModTri N001 180p
R2 N004 V_InputTri 51k
R3 0 N004 51k
R6 N003 N005 100k
R7 0 N005 100K
V_InputTri1 V_InputTri 0 PULSE(0.75 4.5 0 0.05 0.05 0 0.1)
XU1 N004 N001 +V -V V_ModTri LF353
XU2 N005 V_ModTri +V -V N003 LF353
Vpsupply2 ++V 0 6
R5 V_ModTri ++V 220k
M1 N002 N003 0 0 2N7002
R4 N002 N001 51k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.inc LF353.txt
.tran 0 9.1 9 startup uic
.backanno
.end
